Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia, fatigue
 
Major Surgical or Invasive Procedure:
s/p 2Units PRBC ___

 
History of Present Illness:
___ h/o hemorrhoids s/p banding who presents with BRBPR. Pt 
reports BRBPR with BM's and usually 1 episode daily. Blood fills 
the toilet. Symptoms present for 1.5 weeks. With this, pt 
reports DOE, fatigue, palpitations. He denies abdominal pain, 
n/v/constipation/diarrhea, melena, CP, cough, dysuria. Pt states 
that he had a hemorrhoid banding procedure about ___ yrs ago that 
was unsuccessful as the "vessels were too
small".  he denies f/c/weight loss.

In the ED, GI was consulted and recommended iron studies prior 
to transfusion. 

10pt ROS reviewed and otherwise negative 
 
Past Medical History:
hemorrhoids s/p banding
 
Social History:
___
Family History:
denies h.o HTN, DM
 
Physical Exam:
ADMISSION Exam:
Gen:well appearing, NAD, lying in bed 
vitals:97.8
PO 132 / 80 69 18 100 ra 
head:nc at 
ENT:EOMI, anicteric, MMM
neck: supple
respiratory:b/l ae no w/c/r
cardiac:s1s2 rr no m/r/g
gastrointestinal:+bs, soft, NT, ND, no guarding or rebound 
extremities: no c/c/e 2+pulses
neurologic:face symmetric, speech fluent
psych:calm, cooperative 
skin:no apparent rash

DISCHARGE EXAM
-Vitals: 98.4F, BP 120/80, HR 77, RR 18, SpO2 100% on RA
-General: NAD, ambulated in hall without SOB or fatigue
-HEENT: moist mucus membranes, atraumatic, normocephalic
-Cardio: RRR, no murmur
-Pulm: clear b/l, no wheeze
-GI: soft ,contender, non distended, bowel sounds present
-MSK: no pedal edema, no joint swelling
-Neuro: no focal neurological deficits, AAOx3
-Psych: appropriate mood and affect 
 
Pertinent Results:
___ 09:08PM BLOOD WBC-4.9 RBC-2.83* Hgb-5.6* Hct-20.0* 
MCV-71* MCH-19.8* MCHC-28.0* RDW-17.4* RDWSD-44.8 Plt ___

___ 04:50PM BLOOD WBC-5.5 RBC-3.36* Hgb-7.4* Hct-24.4* 
MCV-73* MCH-22.0* MCHC-30.3* RDW-18.6* RDWSD-48.9* Plt ___

___ 09:08PM BLOOD ___ PTT-27.1 ___

___ 06:43AM BLOOD Glucose-89 UreaN-7 Creat-1.0 Na-142 K-4.1 
Cl-108 HCO3-23 AnGap-15

___ 09:08PM BLOOD Calcium-9.2 Phos-3.2 Mg-2.6 UricAcd-4.8 
Iron-12*

___ 09:08PM BLOOD calTIBC-514* ___ Ferritn-2.3* 
TRF-395*
 
Brief Hospital Course:
___ h/o hemorrhoids who presents with recent GI bleeding and 
symptomatic anemia.

1. Acute blood loss anemia due to hemorrhoidal bleeding
-Patient with known history of hemorrhoids s/p banding declining 
hemorrhoidectomy in the past and also noncompliant with iron and 
bowel regimen opting to achieve this through diet.  He notes 
regular bleeding with bowel movements that has been increased 
this past week.  He is straining to have bowel movements and has 
been sitting on the toilet for prolonged periods of time waiting 
for the bleeding to stop.  Due to symptomatic anemia he received 
2Units PRBC with improvement of his hemoglobin from 5.6 to 7.4.  
He had one bowel movement during the admission, which was 
positive for blood, but he finished quickly and the bleeding 
stopped as soon as he completed his BM.  GI recommended 
colonoscopy, which patient deferred to outpatient setting.  They 
also recommended hemorroidectomy (with Dr. ___, which 
patient has refused in the past.  I stressed the importance of 
iron, fiber, and bowel regimen, which patient understands.  With 
elimination in symptoms, improved bleeding, and improved 
hemoglobin patient requests to go home.  I explained the more 
conservative approach of monitoring overnight and repeating 
hemoglobin in the morning with subsequent hemoglobin if needed, 
which patient understood, but opted for discharge tonight with 
close outpatient follow up.  

>30 minutes spent on discharge planning  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
2.  Fiber (psyllium husk) (psyllium husk) 0.52 gram oral daily 
RX *psyllium husk [Fiber Laxative (psyllium husk)] 0.52 gram 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17.5 grams 
by mouth daily Refills:*0 
4.Outpatient Lab Work
-CBC within this week
-results to be followed by PCP ___: acute anemia (ICD 10 D62)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhoids with acute blood loss anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted with bleeding from your hemorrhoids requiring 
blood transfusion.  GI saw you and recommended colonoscopy, 
which you preferred to be done as an outpatient.  It is very 
important that you take iron supplements, fiber, and stool 
softeners to rebuild your blood supply and prevent worsening 
hemorrhoids.  You will need to monitor your hemoglobin 
outpatient.  
 
Followup Instructions:
___